Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracyclines / Celebrex / sulfa drugs / latex / 
lisinopril
 
Attending: ___.
 
Chief Complaint:
abnormal LFTs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with PMHx notable for hypertension,
osteoarthritis, recent UTI on nitrofurantoin, and likely
sclerosing cholangitis who was referred to the ED by her
gastroenterologist for abnormal LFTs.

Labs were drawn on ___ at an outside facility and so are
not directly viewable in OMR. Her son did take pictures however
which showed an AST 56, ALT 81, AP 565, GGT 1614. GTT is
reportedly up-trending from prior in 800s, though unclear 
exactly
when this was from. Was directed by GI to come to ED for
expedited evaluation. 

Of note, she had been following with GI at ___ (Dr. ___ for several years reportedly for a dilated bile duct.
Interval labs from ___ were up-trending, and so underwent
MRCP at that time. Was referred to ___ where
imaging was reviewed and thought to show multiple intrahepatic
biliary strictures, overall consistent with sclerosing
cholangitis. Unclear if primary vs. secondary to long-standing
biliary obstruction or other cause. Findings were discussed at
interdisciplinary pancreas conference with low concern for
malignancy and so ERCP was deferred at that time. 

 
Past Medical History:
hypertension
cholecystitis
osteoarthritis
colonic polyps
skin cancers
___ reaction
bilateral oophorectomy
cataracts 
 
Social History:
___
Family History:
No known history of biliary or liver disease in family. 
 
Physical Exam:
Admission Physical Exam
VITALS: 97.8 191/100 63 20 97 RA
GENERAL: Older appearing woman in no acute distress. 
Comfortable.
NEURO: AAOx3. CNII-XII grossly intact. Motor strength ___ in
upper and lower extremities bilaterally. Sensation grossly
intact. Speech normal.
HEENT: NCAT. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended. No hepatosplenomegaly.
EXTREMITIES: Warm, well perfused, non-edematous. 

Discharge Physical Exam
VS:
24 HR Data (last updated ___ @ 713)
    Temp: 98.4 (Tm 98.7), BP: 158/80 (138-179/80-92), HR: 57
(57-70), RR: 18 (___), O2 sat: 95% (93-96), O2 delivery: Ra  
GENERAL: Older appearing woman in no acute distress. 
Comfortable.
HEENT: NCAT. EOMI. MMM.
CARDIAC: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
PULMONARY: Clear to auscultation bilaterally. Breathing
comfortably on room air.
ABDOMEN: Soft, non-tender, non-distended. No hepatosplenomegaly.
EXTREMITIES: Warm, well perfused, non-edematous. 
NEURO: AAOx3. CNII-XII grossly intact. Motor strength ___ in
upper and lower extremities bilaterally. Sensation grossly
intact. Speech normal.

 
Pertinent Results:
Admission Labs
___ 04:20PM BLOOD WBC-5.6 RBC-4.21 Hgb-12.1 Hct-37.9 MCV-90 
MCH-28.7 MCHC-31.9* RDW-14.8 RDWSD-48.6* Plt ___
___ 04:20PM BLOOD Neuts-60.5 ___ Monos-14.4* 
Eos-3.2 Baso-0.7 Im ___ AbsNeut-3.40 AbsLymp-1.18* 
AbsMono-0.81* AbsEos-0.18 AbsBaso-0.04
___ 04:57PM BLOOD ___ PTT-29.2 ___
___ 04:20PM BLOOD Glucose-107* UreaN-18 Creat-1.0 Na-136 
K-4.5 Cl-97 HCO3-27 AnGap-12
___ 04:20PM BLOOD ALT-56* AST-46* AlkPhos-564* TotBili-0.4
___ 04:20PM BLOOD Albumin-4.0 Calcium-10.1 Phos-2.2* 
Mg-2.8*
___ 04:20PM BLOOD TSH-1.4
___ 04:20PM BLOOD T4-9.9
___ 04:20PM BLOOD IgG-1057 IgM-84
___ 04:29PM BLOOD Lactate-1.4

Pertinent Findings
___ 07:55AM BLOOD ALT-45* AST-39 AlkPhos-500* TotBili-0.3

Discharge Labs
___ 07:35AM BLOOD WBC-6.1 RBC-3.86* Hgb-11.2 Hct-35.1 
MCV-91 MCH-29.0 MCHC-31.9* RDW-14.9 RDWSD-49.5* Plt ___
___ 07:35AM BLOOD Glucose-91 UreaN-21* Creat-1.0 Na-137 
K-4.6 Cl-97 HCO3-27 AnGap-13
___ 07:35AM BLOOD ALT-43* AST-38 LD(LDH)-161 AlkPhos-487* 
TotBili-0.3
___ 07:35AM BLOOD Calcium-9.4 Phos-3.1 Mg-2.5
___ 04:20PM BLOOD IgG-1057 IgM-84
___ 04:20PM BLOOD T4-9.9
___ 04:20PM BLOOD TSH-1.4
 
Brief Hospital Course:
PATIENT SUMMARY
================
Ms. ___ is a ___ woman with PMHx notable for 
hypertension, chronic biliary dilatation, and sclerosing 
cholangitis now admitted for rising LFTs in a cholestatic 
pattern concerning for sclerosing cholangitis, in the setting of 
worsening weakness and fatigue x5 weeks. 

ACUTE ISSUES
==============
#Sclerosing cholangitis
#Transaminitis
The patient presented with cholestatic pattern of LFT 
abnormalities with predominantly elevated alk phos and GGT. This 
was presumably due to known biliary obstruction visualized on 
prior MRCP in ___, thought to be from sclerosing cholangitis 
though unclear if primary versus secondary from chronic biliary 
obstruction. Malignancy was considered less likely at 
interdisciplinary pancreatic conference in ___ given 
clinical stability at that time, but ERCP was recommended 
symptoms were worsening. There was low suspicion of 
choledocholithiasis based on normal RUQUS. There was no evidence 
of acute infection. Serologic ___ performed: AMA, ___, 
___, IgG, IgM, GGT, ___ and pending at discharge. MRCP 
performed which showed improvement in scan, no cholestasis or 
CBD dilation, but with some strictures in liver with mild 
hepatic duct dilation. 

# FATIGUE
The patient had been feeling more tired and participating less 
at living facility. Her exam was without any focal weakness. 
Suspected etiologies included hepatic abnormalities vs. recent 
Zoster flare vs. UTI (finishing treatment on admission). No 
other major metabolic derangements. TSH and T4 wnl. ___ was 
consulted and determined pt to be at baseline w/ ___ needs. 
Nutrition recommended Ensure w/ meals, vitamin w/ minerals QD.

# HYPERTENSION
The patient was hypertensive 160-190s while admitted. She has 
known history of hypertension but recently stopped home 
amlodipine reportedly due to SBP ___ in clinic. She had SBPs as 
high as 180 but as low as ___. Recommend continued monitoring 
but a liberal control strategy may be safer. 

# URINARY TRACT INFECTION
Diagnosed at assisted living facility with symptoms of dysuria 
and malodorous urine. Completed 7-day course nitrofurantoin on 
___.

# REGURGITATION
Her caretaker and son described intermittent mucous 
regurgitation, which did not seem to be overt vomiting, 
partially digested food products or dysphagia (food sticking in 
throat). This problem was unlikely related to LFT abnormalities 
or biliary issues. Speech and swallow was consulted, but did not 
see the patient by the time of discharge. 

CHRONIC / STABLE ISSUES
================================
# OSTEOARTHRITIS: Patient was reportedly on tramadol, 
gabapentin, and Tylenol at the facility. Tramadol was recently 
started to reduce Tylenol burden on liver although patient had 
not started taking this medication yet. Patient also had history 
of not doing well on sedating medications. Patient continued on 
Gabapentin 100 mg PO/NG BID, Acetaminophen 1000 mg PO/NG 
Q8H:PRN, tramadol lose dose PRN at night for pain.

# GERD: treated with aluminum-Magnesium Hydrox.-Simethicone 
___ mL PO/NG QID:PRN, TUMS TID after meals PRN GERD. PPI not 
given as declined by proxy.

TRANSITIONAL ISSUES
==================
[] The patient was reported to have lots of mucus secretions in 
her mouth. She did not have any overt signs of difficulty with 
swallowing fluids or solids. Would recommend obtaining speech 
and swallow evaluation as an outpatient. ___ also benefit from 
EGD pending speech/swallow evaluation.
[] The patient had labile blood pressures while inpatient with 
SBPs ranging from 90-170. She had discontinued amlodipine as an 
outpatient due to hypotension. Consider restarting as 
appropriate, but a liberal control strategy may avoid 
hypotension. 
[] consider compression stockings for orthostatic hypotension
[] Sclerosing cholangitis: follow-up final read of MRCP and 
serologic testing in outpatient liver clinic and discussion of 
treatment.

#CODE STATUS: DNR/DNI (confirmed, MOLST on file)
#CONTACT: ___ (son: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. cranberry unknown  oral DAILY 
2. Florastor (Saccharomyces boulardii) 250 mg oral BID 
3. Gabapentin 100 mg PO BID 
4. Metamucil (psyllium husk) 3.4 gram/5.4 gram oral DAILY 
5. Miconazole Powder 2% 1 Appl TP BID 
6. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
7. Oysco-500 (calcium carbonate) 500 mg calcium (1,250 mg) oral 
QPM 
8. Artificial Tears Preserv. Free ___ DROP BOTH EYES BID 
9. Salonpas (methyl salicylate-menthol) unknown  topical QPM 
10. Witch ___ 50% Pad ___ID 
11. Vitamin D 1000 UNIT PO DAILY 
12. Calcium Carbonate 500 mg PO BID:PRN GERD 
13. melatonin 5 mg oral QHS:PRN 
14. Senna 17.2 mg PO BID:PRN Constipation - First Line 
15. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
abdominal discomfort 

 
Discharge Medications:
1.  cranberry 1 tab oral DAILY  
2.  Salonpas (methyl salicylate-menthol) 1 U topical QPM  
3.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
abdominal discomfort  
4.  Artificial Tears Preserv. Free ___ DROP BOTH EYES BID  
5.  Calcium Carbonate 500 mg PO BID:PRN GERD  
6.  Florastor (Saccharomyces boulardii) 250 mg oral BID  
7.  Gabapentin 100 mg PO BID  
8.  melatonin 5 mg oral QHS:PRN  
9.  Metamucil (psyllium husk) 3.4 gram/5.4 gram oral DAILY  
10.  Miconazole Powder 2% 1 Appl TP BID  
11.  Oysco-500 (calcium carbonate) 500 mg calcium (1,250 mg) 
oral QPM  
12.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
13.  Vitamin D 1000 UNIT PO DAILY  
14.  Witch ___ 50% Pad ___ID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===============
Sclerosing cholangitis
Transaminitis

SECONDARY DIAGNOSES
===============
Hypertension
Urinary tract infection
Regurgitation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You were admitted to the hospital because you were feeling 
fatigued and had elevated liver labs.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- We sent lab tests to look for a reason for your liver lab 
abnormalities.
- You got imaging of your liver and gallbladder that showed 
overall improvement with some narrowing of vessels in the liver.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- You should have your swallowing issues evaluated by a speech 
and swallow expert. They may recommend further testing or 
consultation with a GI doctor or ENT doctor. 
- Avoid narcotics like tramadol which may make you feel altered. 

- Call your doctor if you develop any symptoms that concern you.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___